US08198296B2
A mixture of 3-(tert-butoxycarbonyl)-3-azabicyclo[3.3.0]octane-7-carboxylic acid (0.150 g, 0.588 mmol), 2,2,2-trifluoroethanol (0.118 g, 1.18 mmol), 4-N,N-dimethylaminopyridine (DMAP) (0.143 g, 1.18 mmol) and polymer supported dicyclohexylcarbodiimide (PS-DCC) (0.8 g, loading 3.2 mmol/g) in dichloromethane (20 mL) was stirred at ambient temperature overnight. The reaction mixture was filtered, and the filtrate was concentrated. The residue was purified by HPLC, using acetonitrile and 0.05% aqueous TFA as mobile phase, to obtain 0.053 g (27% yield) of 2,2,2-trifluoroethyl 3-(tert-butoxycarbonyl)-3-azabicyclo[3.3.0]octane-7-carboxylate as an oil (1H NMR (CDCl3, 300 MHz): δ 4.48 (q, J=8.30 Hz, 2H), 3.58-3.46 (m, 2H), 3.26-2.92 (m, 4H), 2.82-2.63 (m, 1H), 2.28-2.07 (m, 2H, 1.84-1.65 (m, 2H), 1.45 (s, 9H); MS (m/z): 338 (M+1), 282 (M+1-56)). The 2,2,2-trifluoroethyl 3-(tert-butoxycarbonyl)-3-azabicyclo[3.3.0]octane-7-carboxylate was dissolved in dichloromethane (5.0 mL), treated with TFA (2.0 mL), and the reaction was stirred at ambient temperature for 1 h. The solvent was evaporated and the crude product was purified on HPLC, using acetonitrile and 0.05% TFA in water as mobile phase, to obtain 0.023 g of the trifluoroacetate salt of 2,2,2-trifluoroethyl 3-azabicyclo[3.3.0]octane-7-carboxylate (as a cis/trans mixture) as an oil (1H NMR (CD3OD, 300 MHz): δ 4.62 (q, J=8.79 Hz, 2H), 3.64-3.42 (m, 1H), 3.3.38-3.32 (m, 1H), 3.22-3.05 (m, 2H), 3.02-2.95 (m, 3H), 2.42-2.07 (m, 2H), 1.96-1.63 (m, 2H); MS (m/z): 238 (M+1)).

reactant | 3-(tert-butoxycarbonyl)-3-azabicyclo[3.3.0]octane-7-carboxylic acid | 0.588 mmol, 0.150 g | C(C)(C)(C)OC(=O)N1CC2CC(CC2C1)C(=O)O | C13H21NO4
reactant | 2,2,2-trifluoroethanol | 1.18 mmol, 0.118 g | FC(CO)(F)F | C2H3F3O
reactant | dicyclohexylcarbodiimide | 0.8 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2,2,2-trifluoroethyl 3-(tert-butoxycarbonyl)-3-azabicyclo[3.3.0]octane-7-carboxylate | 0.053 g, 27% yield | C(C)(C)(C)OC(=O)N1CC2CC(CC2C1)C(=O)OCC(F)(F)F | C15H22F3NO4
